US03994888
t-Butyl 7-(2-carboxybenzamido)-3-methyl-3-cephem-4-carboxylate.
A solution of 800 mg. (2 mmol.) of t-butyl 7-phthalimido-3-methyl-3-cephem-4-carboxylate in 25 ml. of tetrahydrofuran and 8 ml. of water was cooled in an ice bath. To the solution 660 mg. of Na2S.9H2O were added, and the mixture was stirred and cooled for 10 min. At the end of this period 10 ml. of water were added, and the mixture was extracted with 40 ml. of ethyl acetate. The extract was discarded. The aqueous portion was acidified to pH 4.3 with 1N H2SO4 and then extracted with ethyl acetate. The ethyl acetate extract was dried and evaporated, giving 700 mg. of the title compound. The product was recrystallized from chloroform/cyclohexane; m.p. 178°-179°; ir (nujol) 1770, 1735, and 1680 cm-1 ; nmr (CDCl3 + DMSOd6) δ 1.5 (s, 9, t-Bu), 2.1 (s, 3, CH3), 3.2 and 3.5 (ABq, 2, J = 18 Hz), 5.02 (d, 1, J = 4.5 Hz), 5.82 (dd, 1, J = 4.5 and 9Hz), and 7.4-8 (m, H, ArH).

reactant | t-butyl 7-phthalimido-3-methyl-3-cephem-4-carboxylate | 2 mmol | C1(C=2C(C(N1C1[C@@H]3N(C(=C(CS3)C)C(=O)OC(C)(C)C)C1=O)=O)=CC=CC2)=O | C20H20N2O5S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | t-Butyl 7-(2-carboxybenzamido)-3-methyl-3-cephem-4-carboxylate | C(=O)(O)C1=C(C(=O)NC2[C@@H]3N(C(=C(CS3)C)C(=O)OC(C)(C)C)C2=O)C=CC=C1 | C20H22N2O6S
